US06310107B1
2-(N,N-Dimethylamino)methyl-6-(5-phenyl-1,3,4-oxadiazol-2-yl)methoxytetralin
To a solution of 2-(N,N-dimethylamino)methyl-6-hydroxytetralin (206 mg, a free form of Reference Example 16) and 2-chloromethyl-5-phenyl-1,3,4-oxadiazole (231 mg) in DMF (5 ml) was added potassium carbonate (215 mg) and the reaction mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:2) to obtain the titled compound (307 mg).

reactant | 2-(N,N-dimethylamino)methyl-6-hydroxytetralin | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | 2-chloromethyl-5-phenyl-1,3,4-oxadiazole | 231 mg | ClCC=1OC(=NN1)C1=CC=CC=C1 | C9H7ClN2O
reactant | potassium carbonate | 215 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(N,N-Dimethylamino)methyl-6-(5-phenyl-1,3,4-oxadiazol-2-yl)methoxytetralin | 307 mg | CN(C)CC1CC2=CC=C(C=C2CC1)OCC=1OC(=NN1)C1=CC=CC=C1 | C22H25N3O2
